US08058290B2
6-(4-Aminophenyl)-2-chloronicotinonitrile
2.89 mmol (500 mg) of 2,6-dichloronicotinonitrile and 3.18 mmol (551 mg, 1.1 eq.) of 4-aminophenylboronic acid are dissolved under an inert atmosphere in 33.3 ml of dioxane. 680 mg (8.09 mmol, 2.8 eq.) of sodium bicarbonate and then 8.3 ml of water are subsequently added. The mixture is stirred for 5 minutes under an inert atmosphere and then 334 mg (0.29 mmol, 0.1 eq.) of tetrakis(triphenylphosphine)palladium are added. The reaction mixture is brought to reflux (100° C.) for 2 hours and is then cooled to ambient temperature. The reaction medium is filtered and then extracted four times with ethyl acetate. The organic phases are combined, washed twice with a saturated aqueous sodium chloride solution, dried with magnesium sulphate, and concentrated. A yellow solid is then obtained. This crude is purified on a column of 90 g of silica, with an eluent gradient of 20% to 50% of ethyl acetate in heptane. The expected product is obtained in the form of a yellow solid (531 mg).

reactant | 2,6-dichloronicotinonitrile | 2.89 mmol, 500 mg | ClC1=C(C#N)C=CC(=N1)Cl | C6H2Cl2N2
reactant | 4-aminophenylboronic acid | 3.18 mmol, 551 mg, 1.1 eq. | NC1=CC=C(C=C1)B(O)O | C6H8BNO2
reactant | sodium bicarbonate | 8.09 mmol, 680 mg, 2.8 eq. | C([O-])(O)=O.[Na+]
reactant | water | 8.3 ml | O | H2O
solvent | dioxane | 33.3 ml | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.29 mmol, 334 mg, 0.1 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-Aminophenyl)-2-chloronicotinonitrile | NC1=CC=C(C=C1)C1=NC(=C(C#N)C=C1)Cl | C12H8ClN3
